US07834051B2
rac-2-chloro-4-[(4R,5S)-4-(tert-butyldimethylsilyloxy)-3,3,5-trimethyl-2-oxopyrrolidin-1-yl]benzonitrile
Using (4RS,5SR)-4-(tert-butyldimethylsilyloxy)-3,3,5-trimethylpyrrolidin-2-one (105.9 mg), 4-bromo-2-chlorobenzonitrile (89 mg), cesium carbonate (200 mg), tris(dibenzylideneacetone)dipalladium(0) (20 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (25 mg), and in the same manner as in Reference Example 3, the title compound was obtained as a colorless solid (yield: 121 mg, 75%).

reactant | (4RS,5SR)-4-(tert-butyldimethylsilyloxy)-3,3,5-trimethylpyrrolidin-2-one | 105.9 mg | [Si](C)(C)(C(C)(C)C)OC1C(C(NC1C)=O)(C)C | C13H27NO2Si
reactant | 4-bromo-2-chlorobenzonitrile | 89 mg | BrC1=CC(=C(C#N)C=C1)Cl | C7H3BrClN
reactant | cesium carbonate | 200 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 25 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 20 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | rac-2-chloro-4-[(4R,5S)-4-(tert-butyldimethylsilyloxy)-3,3,5-trimethyl-2-oxopyrrolidin-1-yl]benzonitrile | ClC1=C(C#N)C=CC(=C1)N1C(C([C@H]([C@@H]1C)O[Si](C)(C)C(C)(C)C)(C)C)=O | C20H29ClN2O2Si
